US07498460B2
Methyl {4-[5-phenoxypent-1-en-1-yl]phenoxy}acetate (E/Z mixture)
Preparation takes place in analogy to Example XLIII from methyl (4-formylphenoxy)acetate and (4-phenoxybutyl)(triphenyl)phosphonium bromide. The product is obtained as an E/Z mixture.

reactant | methyl (4-formylphenoxy)acetate | C(=O)C1=CC=C(OCC(=O)OC)C=C1 | C10H10O4
reactant | (4-phenoxybutyl)(triphenyl)phosphonium bromide | [Br-].O(C1=CC=CC=C1)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl {4-[5-phenoxypent-1-en-1-yl]phenoxy}acetate | O(C1=CC=CC=C1)CCCC=CC1=CC=C(OCC(=O)OC)C=C1 | C20H22O4
